US08026236B2
n-Butyl lithium (2.5M in hexane, 91.2 ml) was added dropwise to a solution of 4-bromo-1-(2-methoxy-ethoxymethoxy)-2-trifluoromethyl-benzene (30 g) in dry THF (335 ml) at −78° C. under nitrogen atmosphere. The mixture was then stirred at −78° C. for another 30 minutes. Triisopropyl borate (101 ml) was then added slowly at −78° C. under nitrogen, the mixture was then allowed to slowly warm up to room temperature and stirred at this temperature overnight. After adding water (300 ml), the mixture was extracted with ethyl acetate (300 ml×3). The combined organic layers were dried over sodium sulphate. After removal of solvent under reduced pressure, the residue was columned on silica gel using DCM-MeOH as eluant to give 4-(2-methoxy-ethoxymethoxy)-3-trifluoromethyl-phenyl-boronic acid (14.4 g).

reactant | n-Butyl lithium | 2.5M, 91.2 ml | C(CCC)[Li]
reactant | 4-bromo-1-(2-methoxy-ethoxymethoxy)-2-trifluoromethyl-benzene | 30 g | BrC1=CC(=C(C=C1)OCOCCOC)C(F)(F)F | C11H12BrF3O3
reactant | Triisopropyl borate | 101 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | water | 300 ml | O | H2O
solvent | THF | 335 ml | C1CCOC1 | C4H8O
product | 4-(2-methoxy-ethoxymethoxy)-3-trifluoromethyl-phenyl-boronic acid | 14.4 g | COCCOCOC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C11H14BF3O5
